US04213984
5,11-Dihydro-11-[(4-neryl-1-piperazinyl)acetyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one dihydrochloride was prepared from 5.8 gm of 11-chloroacetyl-5,11-dihydro-6H-pyrido-[2,3-b][1,4]benzodiazepin-6-one, 2.4 gm of sodium carbonate and 5.3 gm of 1-neryl-piperazine in 100 ml of absolute ethanol in analogy to Example 1. The obtained raw product was purified on a silica gel column and converted into the dihydrochloride in absolute ethanol with concentrated hydrochloric acid. After recrystallization from absolute ethanol: M.p.: 188°-191° C.

reactant | 11-chloroacetyl-5,11-dihydro-6H-pyrido-[2,3-b][1,4]benzodiazepin-6-one | 5.8 gm | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | sodium carbonate | 2.4 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-neryl-piperazine | 5.3 gm | C(\C=C(\C)/CCC=C(C)C)N1CCNCC1 | C14H26N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5,11-Dihydro-11-[(4-neryl-1-piperazinyl)acetyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one dihydrochloride | Yield: 65% | Cl.Cl.C(\C=C(\C)/CCC=C(C)C)N1CCN(CC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | InChI=1S/C28H35N5O2.2ClH/c1-21(2)8-6-9-22(3)13-15-31-16-18-32(19-17-31)20-26(34)33-25-12-5-4-10-23(25)28(35)30-24-11-7-14-29-27(24)33;;/h4-5,7-8,10-14H,6,9,15-20H2,1-3H3,(H,30,35);2*1H/b22-13-;;
